US06153619
1A Preparation of 4-(3,4-dichlorophenyl)-2-chloropyrimidine (METHOD A)
To a 1L 3-neck flask fitted with an addition funnel, N2 inlet, magnetic stir bar and thermometer was added 15.26 (0.067 mol) of 3,4-dichlorobromobenzene in 50-75 mL of anhydrous ether. The reaction was cooled to -90° C. and 96 mL of tertbutyllithium (1.7 M solution in pentane) slowly was added over a 0.5 hr while maintaining the temperature below -70° C. The reaction temperature was cooled to -80 to -90° C. and 2-chloropyrimidine (9.10 gm, 0.08 mol) dissolved in anhydrous THF was added. The reaction was stirred for about 2 h and 18 gms of DDQ, (0.077 mol) dissolved in anhydrous THF was added slowly, and the mixture was stirred for a 0.5 h. Three mL of H2O containing 1 mL of HOAc in THF was added and the mixture stirred for 15 minutes. The reaction was diluted with 100 mL of H2O and 100 mL of EtOAc and the mixture transferred to a separatory funnel. The organic layer was separated, dried, filtered and evaporated. The crude product was chromatographed and eluted with 30% EtOAc/heptane and triturated with Et2O to yield 3.22 g of a white solid (20%) m.p. 126-127° C.

reactant | 3,4-dichlorobromobenzene | ClC=1C=C(C=CC1Cl)Br | C6H3BrCl2
reactant | tertbutyllithium | 1.7 M, 96 mL | C(C)(C)(C)[Li]
reactant | 2-chloropyrimidine | 0.08 mol, 9.10 gm | ClC1=NC=CC=N1 | C4H3ClN2
reactant | DDQ | 0.077 mol, 18 gms | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | ether | 50-75 mL | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | H2O | Three mL | O | H2O
solvent | HOAc | CC(=O)O | C2H4O2
product | 4-(3,4-dichlorophenyl)-2-chloropyrimidine | 3.22 g, 20% | ClC=1C=C(C=CC1Cl)C1=NC(=NC=C1)Cl | C10H5Cl3N2
